US08076486B2
[4-(5-Amino-4H-[1,2,4]triazol-3-yl)-pyridin-3-yl]-(4-iodo-2-methyl-phenyl)-amine
A reaction mixture of 3-(4-Iodo-2-methyl-phenylamino)-isonicotinic acid hydrazide (120 mg, 0.33 mmol, 1 eq) and C-Methylsulfanyl-methanediamine hydroiodide (104 mg, 0.47 mL, 1.45 eq) in pyridine (2 mL) in sealed tube was heated to 140° C. while stirring for 4 hrs. After cooling, it was poured into water, extracted with EtOAc, and the combined organic fractions, dried over anhydrous MgSO4. After filtration and solvent removal the remaining crude product was subjected to silica gel column chromatography (eluent:Hexane EtOAc=1:1) to afford the desired product (35 mg). [4.26 min; 393(M+1)]

reactant | 3-(4-Iodo-2-methyl-phenylamino)-isonicotinic acid hydrazide | 0.33 mmol, 120 mg, 1 eq | IC1=CC(=C(C=C1)NC1=C(C(=O)NN)C=CN=C1)C | C13H13IN4O
reactant | C-Methylsulfanyl-methanediamine hydroiodide | 0.47 mL, 104 mg, 1.45 eq | I.CSC(N)N
reactant | water | O | H2O
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | [4-(5-Amino-4H-[1,2,4]triazol-3-yl)-pyridin-3-yl]-(4-iodo-2-methyl-phenyl)-amine | 35 mg | NC=1NC(=NN1)C1=C(C=NC=C1)NC1=C(C=C(C=C1)I)C | C14H13IN6
